US04261996
5-Methylthio-2-aminobenzoic acid hydrazide.
6-methylthio-2H-3,1-benzoxazine-2,4-(1H)-dione (25.11 g; 0.72 mole) is added to a cold solution of 54.4% hydrazine (75 ml) in water (75 ml). After stirring at room temperature overnight, the while solid is filtered, washed with cold water and dried. Yield 21.3 g; mp 124°-127°.

reactant | 6-methylthio-2H-3,1-benzoxazine-2,4-(1H)-dione | 0.72 mole, 25.11 g | CSC=1C=CC2=C(C(OC(N2)=O)=O)C1 | C9H7NO3S
reactant | hydrazine | 75 ml | NN | H4N2
solvent | water | 75 ml | O | H2O
product | 5-Methylthio-2-aminobenzoic acid hydrazide | CSC=1C=CC(=C(C(=O)NN)C1)N | C8H11N3OS
